US07576135B2
2-[(E)-2-phenylethenyl]oxazole-4-carboxylic acid ethyl ester
Synthesis was performed as described by Panek et al. (J. Org. Chem., vol. 61, p. 6496 (1996)). Sodium hydrogencarbonate (22.8 g) and ethyl bromopyruvate (10.5 mL) were added to a solution of cinnamamide (10.0 g) in tetrahydrofuran (250 mL) at room temperature, and the mixture was heated under reflux for 48 hours. After the reaction mixture was left to cool to room temperature, the mixture was filtered through Celite, and the filtrate was concentrated under reduced pressure. The residue was dissolved in tetrahydrofuran (30 mL), and trifluoroacetic acid anhydride (30 mL) was added to the solution at 0° C. The mixture was gradually heated to room temperature, and was stirred for 63 hours. Saturated aqueous sodium hydrogencarbonate (500 mL) and ethyl acetate (150 mL) were added to the reaction mixture to partition the mixture. The aqueous layer was extracted with ethyl acetate (150 mL), and the organic layers were combined. The combined organic layer was washed with saturated brine (150 mL), dried over sodium sulfate anhydrate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=5:1→3:1), to thereby give the title compound (10.9 g).

reactant | Sodium hydrogencarbonate | 22.8 g | C(O)([O-])=O.[Na+]
reactant | ethyl bromopyruvate | 10.5 mL | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | cinnamamide | 10.0 g | C(C=CC1=CC=CC=C1)(=O)N | C9H9NO
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | 2-[(E)-2-phenylethenyl]oxazole-4-carboxylic acid ethyl ester | 10.9 g | C(C)OC(=O)C=1N=C(OC1)\C=C\C1=CC=CC=C1 | C14H13NO3
